*                IN  OUT
*                 |    |
.subckt sbau383a  1    2

.include buf802.lib
xbuf802 IN+ OUT VCC2  VEE2 VCC2 VEE2 0 0 0 BUF802
* Vp VCC2 0 6
* Vm VEE2 0 -6
* R26 IN+ 5001 1.0e6
* C44 IN+ 1 100.0e-9
* R24 OUT 2 64.9
* R23 VEE2 VCL 1.0e-10
* R22 VCC2 VCH 1.0e-10

* connections to VIN #2
R26 IN+ 5001 1.0e6
C43 5001 0 2.2e-6
C44 IN+ 1 100.0e-9
R29 1 0 50.0

* connections to P1 P2 P3
Vp VCC2  0 6
Vm VEE2  0 -6
C20 VCC2  0 10.0e-6
C21 VCC2  0 1.0e-6
C29 VEE2 0 10.0e-6
C30 VEE2 0 1.0e-6

* potentiometer
RP1 VCC2  5001 5.0e3
RP2 5001 VEE2 5.0e3


* connections to VCH
C31 VCC2 0 0.1e-6
C32 VCC2 0 1.0e-6
C33 VCC2 0 10.0e-6

* connections to VCL
C40 VEE2 0 100.0e-9
C41 VEE2 0 1.0e-6
C42 VEE2 0 10.0e-6

* connections to OUT
R24 OUT 27 64.9
R27 27 0 75.0
R25 27 2 15.0

* connections to VEE
C22 VEE2 0 0.1e-6
C23 VEE2 0 1.0e-6
C24 VEE2 0 1.0e-6
C25 VEE2 0 0.1e-6
C26 VEE2 0 1.0e-6
C27 VEE2 0 0.1e-6
C28 VEE2 0 1.0e-6

* connections to VCC
C34 VCC2  0 0.1e-6
C35 VCC2  0 1.0e-6
C36 VCC2  0 1.0e-6
C37 VCC2  0 0.1e-6
C38 VCC2  0 1.0e-6
C39 VCC2  0 1.0e-6
 

.ends